US07531532B2
4-Amino-6-(4-amino-3-fluorophenoxy)pyrimidine
After dissolving 4-(4-amino-3-fluorophenoxy)-6-chloropyrimidine (2.25 g) in tetrahydrofuran (25 ml) and a 7N ammonia solution in methanol (50 ml), the mixture was heated in a sealed tube for 3 days at 130° C. The reaction mixture was cooled to room temperature and then partitioned between ethyl acetate and 1N aqueous sodium hydroxide. The separated organic layer was washed with brine. The aqueous layer was then re-extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=1:3, then ethyl acetate) to provide the title compound (0.73 g, 35%) as a purple solid.

reactant | 4-(4-amino-3-fluorophenoxy)-6-chloropyrimidine | 2.25 g | NC1=C(C=C(OC2=NC=NC(=C2)Cl)C=C1)F | C10H7ClFN3O
reactant | ammonia | 7N | N | H3N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | 4-Amino-6-(4-amino-3-fluorophenoxy)pyrimidine | 0.73 g, 35% | NC1=NC=NC(=C1)OC1=CC(=C(C=C1)N)F | C10H9FN4O
